US09061997B2
I.B. 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoic acid (compound 4)
tert-Butyl 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoate (83 mg, 0.18 mmol) is added, in fractions, to a solution of trifluoroacetic acid (TFA) cooled to 0° C.; the mixture is allowed to react for 3 hours. The crude product obtained is washed with ethyl ether until a white crystalline solid is formed. The product is dried to give a yield of 61 mg (83%). 1H NMR (DMSO): δ 8.16 (d, J=8 Hz, 1H), 7.96-7.65 (m, 6H), 7.38 (m, 1H), 4.27 (bs, 2H), 1.59 (bs, 2H), 1.39 (bs, 2H), 1.28 (bs, 5H), 0.84 (bs, 2H).

reactant | tert-Butyl 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoate | 0.18 mmol, 83 mg | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)NC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C27H32N2O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoic acid | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)NC1=CC=C(C(=O)O)C=C1)=O | C23H24N2O5
